US04049663
N-Methyl-N[(1-piperidinocyclohexyl)methyl]3,4-dichlorobenzamide hydrochloride
Solutions of 1-[1-[(methylamino)methyl]cyclohexyl] piperidine (1.1 g., 0.005 mole) in dry benzene (25 ml) and 3,4-dichlorobenzoyl-chloride (1.0 g., 0.005 mole) in dry benzene (50 ml) were mixed and heated under reflux (steam bath) for 1 hr. The precipitate was filtered washed with benzene and dried. (1. 6 g.) m.p. 222° (dec.)

reactant | 1-[1-[(methylamino)methyl]cyclohexyl] piperidine | 0.005 mole, 1.1 g | CNCC1(CCCCC1)N1CCCCC1 | C13H26N2
reactant | 3,4-dichlorobenzoyl-chloride | 0.005 mole, 1.0 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-Methyl-N[(1-piperidinocyclohexyl)methyl]3,4-dichlorobenzamide hydrochloride | Cl.CN(C(C1=CC(=C(C=C1)Cl)Cl)=O)CC1(CCCCC1)N1CCCCC1 | InChI=1S/C20H28Cl2N2O.ClH/c1-23(19(25)16-8-9-17(21)18(22)14-16)15-20(10-4-2-5-11-20)24-12-6-3-7-13-24;/h8-9,14H,2-7,10-13,15H2,1H3;1H
